US06432952B1
adding anhydrous hydrogen chloride in an polar solvent such as isopropanol to a solution of 2-(R)-(1-(R)-(3,5-bis(trifluoromethyl)-phenyl)ethoxy)-4-(5-(dimethylamino)methyl-1,2,3-triazol-4-yl)methyl-3-(S)-(4-fluorophenyl)-morpholine in second polar solvent such as ethyl acetate, followed by addition of an antisolvent such as heptane to give Form I of 2-(R)-(1-(R)-(3,5-bis(trifluoromethyl)phenyl)ethoxy)4-(5-(dimethylamino)methyl-1,2,3-triazol-4-yl)methyl-3-(S)-(4-fluorophenyl)morpholine hydrochloride.

reactant | hydrogen chloride | Cl | ClH
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | 2-(R)-(1-(R)-(3,5-bis(trifluoromethyl)-phenyl)ethoxy)-4-(5-(dimethylamino)methyl-1,2,3-triazol-4-yl)methyl-3-(S)-(4-fluorophenyl)-morpholine | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@@H]1[C@@H](N(CCO1)CC=1N=NNC1CN(C)C)C1=CC=C(C=C1)F)(F)F | C26H28F7N5O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | heptane | CCCCCCC | C7H16
product | 2-(R)-(1-(R)-(3,5-bis(trifluoromethyl)phenyl)ethoxy)4-(5-(dimethylamino)methyl-1,2,3-triazol-4-yl)methyl-3-(S)-(4-fluorophenyl)morpholine hydrochloride | Cl.FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@@H]1[C@@H](N(CCO1)CC=1N=NNC1CN(C)C)C1=CC=C(C=C1)F)(F)F | InChI=1S/C26H28F7N5O2.ClH/c1-15(17-10-18(25(28,29)30)12-19(11-17)26(31,32)33)40-24-23(16-4-6-20(27)7-5-16)38(8-9-39-24)14-22-21(13-37(2)3)34-36-35-22;/h4-7,10-12,15,23-24H,8-9,13-14H2,1-3H3,(H,34,35,36);1H/t15-,23+,24-;/m1./s1
